US07872009B2
Step 5: 5-Oxo-6-(pyridine-2-yl)-1,2,3,5-tetrahydroindolizine-8-carboxylic acid
A mixture of 5-oxo-8-propionyl-1,2,3,5-tetrahydroindolizin-6-yl trifluoromethanesulfonate (0.50 g, 1.46 mmol), 2-trimethylstannyl pyridine (0.46 g, 1.90 mmol), LiCl (0.17 g, 4.38 mmol), and (Ph3P)4Pd (0.12 g, 0.11 mmol) in THF (10 mL) was heated by Microwave Synthesizer at 160° C. for 20 min. The reaction was cooled, diluted with H2O and extracted into EtOAc (3×). The organic layers were combined, dried over MgSO4 and concentrated. The concentrate was triturated in ether to give the salt of the title compound as a light green solid. The solid was dissolved in MeOH (5 mL), to which was added 2 eq. of 1N NaOH and the mixture was stirred for 2 h. The mixture was concentrated, taken up in H2O, neutralized by 10% HCl, extracted with CH2Cl2 (3×), dried over MgSO4, concentrated to give the title compound as a light yellow oil (0.32 g, 85%). MS (m/z, M+1): 257.1.

reactant | 5-oxo-8-propionyl-1,2,3,5-tetrahydroindolizin-6-yl trifluoromethanesulfonate | 1.46 mmol, 0.50 g | FC(S(=O)(=O)OC=1C(N2CCCC2=C(C1)C(CC)=O)=O)(F)F | C12H12F3NO5S
reactant | 2-trimethylstannyl pyridine | 1.90 mmol, 0.46 g | C[Sn](C1=NC=CC=C1)(C)C
reactant | LiCl | 4.38 mmol, 0.17 g | [Li+].[Cl-]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
catalyst | (Ph3P)4Pd | 0.11 mmol, 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Oxo-6-(pyridine-2-yl)-1,2,3,5-tetrahydroindolizine-8-carboxylic acid | O=C1N2CCCC2=C(C=C1C1=NC=CC=C1)C(=O)O | C14H12N2O3
